US04316042
(b) 2-(N-Isopropyl-N-carbomethoxyamino)-4-methyl-4'-fluoro-2,5-dihydrobenzophenone
To a stirred suspension of 67,9 g 4-fluorobenzoylacetylene in 160 ml hexane under reflux is added dropwise within 1 hour 78,8 g N-isopropyl-N-(3-methyl-1,3-butadienyl)-carbamic acid methylester in 40 ml hexane. After the addition is completed, the reaction mixture is stirred for additional 6 hours under reflux, and then cooled to room temperature, whereby the heading compound precipitates, m.p. 98°-102° C.

reactant | 4-fluorobenzoylacetylene | 67,9 g | FC1=CC=C(C(=O)C#C)C=C1 | C9H5FO
reactant | N-isopropyl-N-(3-methyl-1,3-butadienyl)-carbamic acid methylester | 78,8 g | COC(N(C=CC(=C)C)C(C)C)=O | C10H17NO2
solvent | hexane | 160 ml | CCCCCC | C6H14
solvent | hexane | 40 ml | CCCCCC | C6H14
product | 2-(N-Isopropyl-N-carbomethoxyamino)-4-methyl-4'-fluoro-2,5-dihydrobenzophenone | C(C)(C)N(C(=O)OC)C1C(C(=O)C2=CC=C(C=C2)F)=CCC(=C1)C | C19H22FNO3
